US07919506B2
Step A: Dibenzylcyanamide
To a dry 2 L round bottom flask, equipped with an overhead stirrer, charged: sodium acetate (120 gm), 1 dibenzyl amine (100 gm) and 600 mL of ethanol. To this suspension at room temperature, was added a 3 M solution of cyanogen bromide in methylene chloride over 30 minutes (340 mL). The suspension was allowed to stir at ambient temperature until reaction completion was observed via HPLC. The reaction mixture was diluted with 1 L of toluene and 1 N sodium hydroxide was added over 15 minutes. The reaction mixture was stirred for 1 hour and the layers separated. The organic layer was dried over sodium sulfate, filtered, and concentrated to an oil that solidified upon standing. Recrystallization from a 1:1 2 L mixture of IPE/Heptanes gave 101 g (89%) of product. 1H NMR (400 MHz, CD3OD) 7.42-7.15 (m, 10H), 1.31 (s, 4H). 13C NMR (400 MHz, CD3OD) δ 135.1, 128.8, 128.7, 128.5, 118.0, 54.6. C, H, N Calculated (found) 81.05 (80.71), 6.35 (6.52), 12.60 (12.65)

reactant | sodium acetate | 120 gm | C(C)(=O)[O-].[Na+]
reactant | dibenzyl amine | 100 gm | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | ethanol | 600 mL | C(C)O | C2H6O
reactant | cyanogen bromide | N#CBr | CBrN
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | 1 N | [OH-].[Na+]
product | Dibenzylcyanamide | 101 g, 89% | C(C1=CC=CC=C1)N(C#N)CC1=CC=CC=C1 | C15H14N2
